US06828460B2
(±)-4-[3-(Hydroxymethyl)cyclohexyl]-1,3-benzenediol
(±)-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}methanol (35 mg) was heated at 50° C. in methanol (3.5 ml) containing acidic ion exchange resin (350 mg). After 6 hr, the mixture was filtered, the resin was washed with ethyl acetate, and the combined filtrate and washings were evaporated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:1 v/v) to furnish a mixture of diastereoisomers of the title compound as a white solid (2 mg, 8%). δH (d4-MeOH) 0.9-1.9 (9H, overlapping m), 2.80 (0.5H, m), 2.90 (0.5H, m), 3.20-3.40 (2H, overlapping m), 6.15 (2H, m), 6.80 (0.5H, d), 6.85 (0.5H, d); m/z (ES−) 221 (M−H)−.

reactant | (±)-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}methanol | 35 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)CO | C17H26O5
solvent | methanol | 3.5 ml | CO | CH4O
product | (±)-4-[3-(Hydroxymethyl)cyclohexyl]-1,3-benzenediol | 2 mg, 8% | OCC1CC(CCC1)C1=C(C=C(C=C1)O)O | C13H18O3
